US07501414B2
11a 2-Bicyclo[2.2.1]hept-2-yl-N-(2-methyl-4-morpholin-4-yl-6-trifluoromethyl-phenyl)-acetamide
Bicyclo[2.2.1]hept-2-yl-acetic acid (160 mg), N,N-diisopropyl-ethylamine (0.44 mL) and N-[(dimethylamino)-1H-1,2,3-triazolo-[4,5-b]pyridin-1-yl-methylene]-N-methyl-methanaminium hexafluoro-phosphate N-oxide (0.47 g) were mixed in dry N,N-dimethylformamide (3 mL) and stirred under argon for 2 minutes. 2-Methyl-4-morpholin-4-yl-6-trifluoromethyl-phenylamine (0.18 g) dissolved in dry N,N-dimethylformamide (2 mL) was added to the reaction mixture, which was stirred at 25° C. under argon for 16 hours. Ethyl acetate (20 mL) was added and the organic phase was washed with saturated aqueous ammonium chloride/water (1:1, 20 mL), water (20 mL), brine/water (1:1, 20 mL), dried over magnesium sulfate, concentrated in vacuo and purified by flash chromatography to furnish 16 mg (6% yield) of the title compound as a white solid. LC-MS (m/z) 397 (MH+); tR=3.12, (UV, ELSD) 91%, 98%.

reactant | Bicyclo[2.2.1]hept-2-yl-acetic acid | 160 mg | C12C(CC(CC1)C2)CC(=O)O | C9H14O2
reactant | N,N-diisopropyl-ethylamine | 0.44 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Methyl-4-morpholin-4-yl-6-trifluoromethyl-phenylamine | 0.18 g | CC1=C(C(=CC(=C1)N1CCOCC1)C(F)(F)F)N | C12H15F3N2O
reactant | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-Bicyclo[2.2.1]hept-2-yl-N-(2-methyl-4-morpholin-4-yl-6-trifluoromethyl-phenyl)-acetamide | 16 mg, 6% yield | C12C(CC(CC1)C2)CC(=O)NC2=C(C=C(C=C2C(F)(F)F)N2CCOCC2)C | C21H27F3N2O2
